US05942511
Synthesis of 1-chloro-4-allylthiophthalazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 30 ml of absolute methanol and then mixed with 0.93 ml (0.01 mol) of allylmercaptan. To this mixture was added 1.99 g(0.01 mol) of 1,4-dichlorophthalazine. The reaction solution was refluxed for 24 hours and then treated according to the same manner as Example 1 to obtain the title compound as a pale white needle crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | allylmercaptan | 0.01 mol, 0.93 ml | C(C=C)S | C3H6S
reactant | 1,4-dichlorophthalazine | 0.01 mol, 1.99 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
solvent | methanol | 30 ml | CO | CH4O
product | 1-chloro-4-allylthiophthalazine | ClC1=NN=C(C2=CC=CC=C12)SCC=C | C11H9ClN2S
